US06613760B1
Ethyl N-(3,4-dichlorobenzyl)-4-dimethylaminomethyl-5-hydroxyindole-2-carboxylate (Ethyl Ester of Compound 5)
To a stirred solution of ethyl N-(3,4-dichlorobenzyl)-5-hydroxyindole-2-carboxylate (2.1 g) in ethanol (50 ml) was added successively aqueous dimetylamine (40%, 0.5 ml) and aqueous formaldehyde (0.5 ml). The solution was allowed to stand overnight and the resulting crystals filtered and dried in vacuo to give the product as pale yellow crystals (1.7 g, 70%); NMR δ(CD3SOCD3) 1.24 (t, 3H), 2.23 (s, 6H), 3.81 (s, 2H), 4.24 (q, 2H), 5.75 (s, 2H), 6.82 (d, 1H), 6.90 (dd, 1H), 7.30 (m, 3H), 7.50 (d, 1H); M/z (+) 423.421 (MH−), 378, 376.

reactant | ethyl N-(3,4-dichlorobenzyl)-5-hydroxyindole-2-carboxylate | 2.1 g | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)O)C(=O)OCC)C=CC1Cl | C18H15Cl2NO3
reactant | dimetylamine | 0.5 ml | CNC | C2H7N
reactant | formaldehyde | 0.5 ml | C=O | CH2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl N-(3,4-dichlorobenzyl)-4-dimethylaminomethyl-5-hydroxyindole-2-carboxylate | 1.7 g, 70% | ClC=1C=C(CN2C(=CC3=C(C(=CC=C23)O)CN(C)C)C(=O)OCC)C=CC1Cl | C21H22Cl2N2O3
